US09255096B1
3-(1,4-dihydrobenzo[c]-2,7-naphthyridin-3(2H)-yl)-N-(3-methylphenyl)benzamide
To a mixture of 3-(1,4-dihydrobenzo[c]-2,7-naphthyridin-3(2H)-yl)benzoic acid (0.20 mmol, 61 mg) and triethylamine (0.40 mmol, 0.056 mL) in 1.6 mL DMF at rt was added propylphosphonic anhydride solution (50 wt % in EtOAc, 0.24 mmol, 0.143 mL). After 15 min at rt, meta-toluidine (0.30 mmol, 0.032 mL) was added and the reaction stirred at rt for 18 hours. The reaction was quenched into dilute aqueous Na2CO3 solution, extracted into EtOAc, the EtOAc layer washed with H2O, dilute aqueous Na2CO3 solution, brine, dried with anhydrous Na2SO4 and concentrated. The resulting solid was chromatographed eluting with CHCl3/EtOAc and then recrystallized from EtOAc/hexane to give the title compound as an off-white solid (38 mg, 48%).

reactant | 3-(1,4-dihydrobenzo[c]-2,7-naphthyridin-3(2H)-yl)benzoic acid | 0.20 mmol, 61 mg | C1C=2C3=C(N=CC2CN(C1)C=1C=C(C(=O)O)C=CC1)C=CC=C3 | C19H16N2O2
reactant | triethylamine | 0.40 mmol, 0.056 mL | C(C)N(CC)CC | C6H15N
reactant | propylphosphonic anhydride | 0.24 mmol, 0.143 mL | CCCP(=O)=O | C3H7O2P
reactant | meta-toluidine | 0.30 mmol, 0.032 mL | NC1=CC(=CC=C1)C | C7H9N
solvent | DMF | 1.6 mL | CN(C)C=O | C3H7NO
product | 3-(1,4-dihydrobenzo[c]-2,7-naphthyridin-3(2H)-yl)-N-(3-methylphenyl)benzamide | 38 mg, 48% | C1C=2C3=C(N=CC2CN(C1)C=1C=C(C(=O)NC2=CC(=CC=C2)C)C=CC1)C=CC=C3 | C26H23N3O
